US06921763B2
A mixture of 3-iodo-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.2 g, 0.0005 mol), N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.28 g, 0.00078 mol), tetrakis(triphenylphosphine)palladium (0.029 g, 0.000025 mol) and sodium carbonate (0.13 g, 0.00125 mol) in ethylene glycol dimethyl ether (25 mL) and water (5 mL) was heated at 80° C. for 5 hours under an atmosphere of nitrogen. Additional N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.14 g, 0.00039 mol.) and tetrakis(triphenylphosphine)-palladium (0.015 g, 0.0000125 mol) were added, and the mixture was stirred at 80° C. for 16 hours. The mixture was allowed to cool to ambient temperature, and the solvent was removed under the reduced pressure. The residue was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic extracts were washed with water, saturated aqueous sodium bicarbonate solution, and brine, and dried over magnesium sulfate. The solvents were evaporated under the reduced pressure to leave a brownish solid which was purified by flash column chromatography on silica using 5%-20% methanol/dichloromethane as a mobile phase to give N2-(4-{4-amino-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine (0.14 g, 0.00027 mol). 1H NMR (TFA-d, 400 MHz) δ 8.53 (s, 1H), 7.88 (m, 2H), 7.81 (m, 2H), 7.14 (s, 2H), 5.40 (br, 1H), 4.05 (m, 2H), 3.98 (m, 2H), 3.66 (m, 2H), 3.56 (s, 3H), 3.47 (m, 2H), 2.96 (m, 2H), 2.54 (br, 2H), 2.50 (s, 3H), 2.43 (s, 3H). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 9.6 min. MS: MH+ 513

reactant | 3-iodo-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0005 mol, 0.2 g | IC1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)CCOC | C13H19IN6O
reactant | N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.00078 mol, 0.28 g | CC=1C=C(C2=C(N=C(O2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1)C | C21H25BN2O3
reactant | sodium carbonate | 0.00125 mol, 0.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.00039 mol, 0.14 g | CC=1C=C(C2=C(N=C(O2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1)C | C21H25BN2O3
solvent | ethylene glycol dimethyl ether | 25 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.000025 mol, 0.029 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)-palladium | 0.0000125 mol, 0.015 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N2-(4-{4-amino-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.00027 mol, 0.14 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CCN(CC1)CCOC | C28H32N8O2
